US03965127
1,4-Dimethyl-3-(4-hydroxy-3-methoxyphenyl)-2-phenoxy-1,4,2-diazaphospholidin-5-one-2-oxide ##SPC3##
A mixture of 76.1g (0.5 mole) of vanillin, 44.0g (0.5 mole) of 1,3-dimethylurea, and 155.0g (0.5 mole) of triphenyl phosphite in 200g of benzene is stirred under N2 and warmed at reflux (95°) for 1 hr. About half of the benzene is distilled to give a yellow solution: 31P nmr -25.3 ppm. The reaction mixture solidifies while standing for several days. Additional benzene is added to aid in breaking up the solid. Filtration gives 64.0g of slightly yellow solid. Recrystallization of an 11.0g portion from acetonitrile gives 5.2g of white solid: mp 168°-170°; 31P nmr -24.5 ppm; molecular weight 362 (mass spectrum) (theory 362).

reactant | vanillin | 0.5 mole, 76.1g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 1,3-dimethylurea | 0.5 mole, 44.0g | CNC(=O)NC | C3H8N2O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,4-Dimethyl-3-(4-hydroxy-3-methoxyphenyl)-2-phenoxy-1,4,2-diazaphospholidin-5-one-2-oxide | 5.2g | CN1P(C(N(C1=O)C)C1=CC(=C(C=C1)O)OC)(OC1=CC=CC=C1)=O | C17H19N2O5P
